US04336379
A solution of 5 g (0.024 mole) of 2-(3,5-dimethyl-4-isoxazolyl)-indole in 100 ml of dry tetrahydrofuran is cooled to -60° and treated by dropwise addition with 32.4 ml of 1.6 M n-butyllithium in hexane (0.052 mole) maintaining temperature at -60° C. The resulting mixture is then stirred at -60° C. for 30 min. and then treated by dropwise addition of 4.01 g (0.028 mole) of methyl iodide in 10 ml dry tetrahydrofuran. The resulting mixture is stirred at -60° for 4 hours and quenched by the addition of 6 ml saturated ammonium chloride solution. The mixture is then warmed to room temperature and treated with 50 ml of water and extracted with methylene chloride. The organic layers are dried over magnesium sulfate, filtered and evaporated in vacuo. The resulting oil is then purified by filtration through silica gel to give 2-(5-ethyl-3-methyl-4-isoxazolyl)-indole as a viscous oil.

reactant | 2-(3,5-dimethyl-4-isoxazolyl)-indole | 0.024 mole, 5 g | CC1=NOC(=C1C=1NC2=CC=CC=C2C1)C | C13H12N2O
reactant | n-butyllithium | 1.6 M, 32.4 ml | C(CCC)[Li]
reactant | hexane | 0.052 mole | CCCCCC | C6H14
reactant | methyl iodide | 0.028 mole, 4.01 g | CI | CH3I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(5-ethyl-3-methyl-4-isoxazolyl)-indole | C(C)C1=C(C(=NO1)C)C=1NC2=CC=CC=C2C1 | C14H14N2O
